US04376771
6.0 g (29.6 millimoles) of 6-(p-aminophenyl)-5-methyl-4,5-dihydropyridaz-3-one and 4.6 g (32.6 millimoles) of 4-chlorobutyryl chloride in 100 ml of absolute toluene are kept for 6 hours at 80° C. The product is filtered off at 10° C., washed with water and dried under reduced pressure at 50° C. 8.5 g (93% of theory) of 6-[p-(4-chlorobutyrylamino)-phenyl]-5-methyl-4,5-dihydropyridaz-3-one are obtained as beige crystals which, after recrystallization from methanol, melt at 176°-178° C.

reactant | 6-(p-aminophenyl)-5-methyl-4,5-dihydropyridaz-3-one | 29.6 millimoles, 6.0 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | 4-chlorobutyryl chloride | 32.6 millimoles, 4.6 g | ClCCCC(=O)Cl | C4H6Cl2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 6-[p-(4-chlorobutyrylamino)-phenyl]-5-methyl-4,5-dihydropyridaz-3-one | 8.5 g, 93% | ClCCCC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C15H18ClN3O2
